US04837349
To a dichloromethane solution (1.0 ml) of Nα-t-butoxycarbonyl-Nε-benzyloxycarbonyllysine methyl ester (191.0 mg, 0.48 mmol) were added 2.6-lutidine (113 μl, 0.97 mmol) and t-butyldimethylsilyltrifluoromethane sulfonate (167 μl, 0.73 mmol). The mixture was stirred for 15 minutes in an argon atmosphere at room temperature. After addition of a saturated aqueous solution of ammonium chloride, the reaction mixture was extracted with ether and the ether layer was dried over anhydrous magnesium sulfate and filtered. After removal of the solvent in vacuo, Nα-butyldimethylsilyloxycarbonyl-Nε-benzyloxycarbonyllysine methyl ester was obtained (238 mg; yield, 100%).

reactant | Nα-t-butoxycarbonyl-Nε-benzyloxycarbonyllysine methyl ester | 0.48 mmol, 191.0 mg | COC([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O | C20H30N2O6
reactant | 2.6-lutidine | 0.97 mmol, 113 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyldimethylsilyltrifluoromethane sulfonate | 0.73 mmol, 167 μl | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | Nα-butyldimethylsilyloxycarbonyl-Nε-benzyloxycarbonyllysine methyl ester | COC([C@@H](N(CCCC)C(=O)O[SiH](C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O | C22H36N2O6Si
